* E:\Elektronika\KiCAD\ESP8266_MotherBoard\LTSpice\PWM_modul.asc
M1 N004 N002 N001 N001 IRF9640
R2 N004 0 1k
V1 N001 0 24v
Q1 N005 N007 0 0 2N2222
R1 N007 N006 10k
R3 N003 N006 10k
V2 N003 0 3v3
R5 N007 0 10k
R4 N001 N002 10k
R6 N002 N005 1k5
D1 N002 N001 BZX84C15L
.model D D
.lib C:\Users\rmysk\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\rmysk\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rmysk\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1s
* grounded -> simulate MCU output is low
.backanno
.end
